US05550119
A solution of (S)-N-t-butoxycarbonylamino-3-(2'-methoxybiphenyl-4-yl)-propionic acid methyl ester (4.1 g in methanolic 1N sodium hydroxide (60 mL) is stirred at room temperature for 3 hours. Ether (30 mL) and water (30 mL) are added. The aqueous layer is separated and acidified with concentrated HCl, then extracted with ether (2×20 mL) and dried over anhydrous sodium sulfate. Evaporation of the solvent under reduced pressure gives (S)-N-t-butoxycarbonylamino-3-(2'-methoxybiphenyl-4-yl)-propionic acid.

reactant | (S)-N-t-butoxycarbonylamino-3-(2'-methoxybiphenyl-4-yl)-propionic acid methyl ester | COC([C@H](CC1=CC=C(C=C1)C1=C(C=CC=C1)OC)NC(=O)OC(C)(C)C)=O | C22H27NO5
reactant | sodium hydroxide | 1N, 60 mL | [OH-].[Na+]
reactant | Ether | 30 mL | CCOCC | C4H10O
solvent | water | 30 mL | O | H2O
product | (S)-N-t-butoxycarbonylamino-3-(2'-methoxybiphenyl-4-yl)-propionic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)C1=C(C=CC=C1)OC | C21H25NO5
